US06307055B1
Synthesis of 2-(2′-Hydroxy-3′-tert-butyl-5′-(bis (2-hydroxyethyl) aminomethyl) phenyl)-5-chlorobenzotriazole
2-(2′-Hydroxy-3′-tert-butyl-5′-methylphenyl)-5-chlorobenzotriazole (3.95 g. 0.01 mole), diethanol amine (3.14 g 0.03 mole) was dissolved in 100 ml. of acetone The reaction mixture was refluxed with constant stirring at 80° C. for 6 h. The solvent was then removed by rotary evaporation. Crude product was purified using silica gel column chromatography. Product was identified by 1H-NMR.

reactant | 2-(2′-Hydroxy-3′-tert-butyl-5′-methylphenyl)-5-chlorobenzotriazole | 0.01 mole, 3.95 g | OC1=C(C=C(C=C1C(C)(C)C)C)N1N=C2C(=N1)C=CC(=C2)Cl | C17H18ClN3O
reactant | diethanol amine | 0.03 mole, 3.14 g | N(CCO)CCO | C4H11NO2
solvent | acetone | CC(=O)C | C3H6O
product | 2-(2′-Hydroxy-3′-tert-butyl-5′-(bis (2-hydroxyethyl) aminomethyl) phenyl)-5-chlorobenzotriazole | OC1=C(C=C(C=C1C(C)(C)C)CN(CCO)CCO)N1N=C2C(=N1)C=CC(=C2)Cl | C21H27ClN4O3
